US09085540B2
A mixture of 3-chloro-6-(2-hydroxypropan-2-yl)-5-(3-nitrophenoxy)pyrazine-2-carboxamide (300 mg), 1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-amine (184 mg), diisopropylethylamine (291 μL), and N-methylpyrrolidone (3 mL) was reacted in a microwave reaction device at 180° C. for 2 hours. To the reaction mixture were added water and saturated brine, followed by extraction with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1). The obtained solid was purified by silica gel column chromatography (NH2 type, eluent; chloroform:methanol=100:0-98:2) to obtain 3-{[1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl]amino}-5-(3-nitrophenoxy)-6-(prop-1-en-2-yl)pyrazine-2-carboxamide (212 mg) as a yellow solid.

reactant | 3-chloro-6-(2-hydroxypropan-2-yl)-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 300 mg | ClC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(C)(C)O)C(=O)N | C14H13ClN4O5
reactant | 1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-amine | 184 mg | CN1CCC(CC1)N1N=CC(=C1)N | C9H16N4
reactant | diisopropylethylamine | 291 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | 3-{[1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl]amino}-5-(3-nitrophenoxy)-6-(prop-1-en-2-yl)pyrazine-2-carboxamide | 212 mg | CN1CCC(CC1)N1N=CC(=C1)NC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=C)C)C(=O)N | C23H26N8O4
